US07291635B2
The title B compound, 5-(3-iodo-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (932 mg, 2.76 mmol) is dissolved in tetrahydrofuran (20 mL) in a 40 mL capacity septum capped vial, stirred under argon balloon. Triphenylphosphine (1.47 g, 5.51 mmol) is added as a solid and stirred until dissolved, then 4-methyoxybenzyl alcohol (0.688 mL, 5.51 mmol) is added by syringe. The stirred reaction is cooled in an ice bath, and diethyl azodicarboxylate (0.867 mL, 5.51 mmol) is added slow dropwise by syringe. The reaction is stirred 16 h and then recooled and added more diethyl azodicarboxylate (0.433 mL, 2.26 mmol). After 5H, the reaction is concentrated in vacuo, then taken up in CH2Cl2 and chromatographed on a 35 g silica gel RediSep column (Isco, Inc.) with a 30 mL/min gradient elution of 0:100 (EtOAc:CH2Cl2) for 5 min, then to 5:95 over 35 min. Fractions containing product are combined, concentrated and recrystalized with EtOAc/hexanes to yield 5-(3-iodo-phenyl)-2-(4-methoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one as a white solid: 1H-NMR (300 MHz, DMSO-d6) δ 3.76 (s, 3H), 4.79 (s, 2H), 4.88 (s, 2H), 6.92 (d, J=7.5, 2H), 7.27 (t, J=7.5, 1H), 7.33 (d, J=7.5, 2H), 7.39 (d, J=7.5, 1H), 7.63 (d, J=7.5, 1H), 7.67 (s, 1H).

reactant | 5-(3-iodo-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 2.76 mmol, 932 mg | IC=1C=C(C=CC1)N1CC(NS1(=O)=O)=O | C8H7IN2O3S
reactant | Triphenylphosphine | 5.51 mmol, 1.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-methyoxybenzyl alcohol | 5.51 mmol, 0.688 mL | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | diethyl azodicarboxylate | 5.51 mmol, 0.867 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diethyl azodicarboxylate | 2.26 mmol, 0.433 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-(3-iodo-phenyl)-2-(4-methoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | IC=1C=C(C=CC1)N1CC(N(S1(=O)=O)CC1=CC=C(C=C1)OC)=O | C16H15IN2O4S
